US07595401B2
9-[2-(2,4-Difluoro-phenyl)-ethyl]-8-(2,5-dimethoxy-phenylsulfanyl)-9H-purine-6-ylamine
The title compound was prepared from 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine and 1-(2-chloro-ethyl)-2,4-difluoro-benzene by a procedure similar to examples 1 and 2. The compound was purified by preparative HPLC. LC-MS [M+H]+ 444.1.

reactant | 8-(2,5-dimethoxy-phenylsulfanyl)-9H-purin-6-ylamine | COC1=C(C=C(C=C1)OC)SC=1NC2=NC=NC(=C2N1)N | C13H13N5O2S
reactant | 1-(2-chloro-ethyl)-2,4-difluoro-benzene | ClCCC1=C(C=C(C=C1)F)F | C8H7ClF2
product | 9-[2-(2,4-Difluoro-phenyl)-ethyl]-8-(2,5-dimethoxy-phenylsulfanyl)-9H-purine-6-ylamine | FC1=C(C=CC(=C1)F)CCN1C2=NC=NC(=C2N=C1SC1=C(C=CC(=C1)OC)OC)N | C21H19F2N5O2S
